US06177462B1
In a 250 ml single neck flask was charged 5.88 g (30.3 mmoles, 1.0 eq.) of 4-(1-naphthyl)-3-buten-2-one and 5.2 g (75.4 mmoles, 2.5 eq) of hydroxylamine hydrochloride and 6 g of 50% sodium hydroxide (75 mmoles, 2.5 eq) and 100 ml of methanol. The reaction mixture was stirred at reflux for 2 hours. The reaction mixture was concentrated, diluted with water (50 ml), and then extracted with ethyl acetate (2×50 ml). The organic phase was dried and concentrated, to obtain 3.9 g of 4-(1-naphthyl)-3-buten-2-one 2-oxime (E/Z mixture of isomers) as an oil in 62% yield.

reactant | 4-(1-naphthyl)-3-buten-2-one | 30.3 mmoles, 5.88 g, 1.0 eq. | C1(=CC=CC2=CC=CC=C12)C=CC(C)=O | C14H12O
reactant | hydroxylamine hydrochloride | 75.4 mmoles, 5.2 g, 2.5 eq | Cl.NO
reactant | sodium hydroxide | 75 mmoles, 6 g, 2.5 eq | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 4-(1-naphthyl)-3-buten-2-one 2-oxime | 3.9 g, 62% yield | C1(=CC=CC2=CC=CC=C12)C=CC(C)=NO | C14H13NO
